US08258122B2
b) 3-(3-Chloropyridin-4-yl)-7-iodo[1,2,4]triazolo[4,3-a]pyridine
To a mixture of 3-chloro-N′-(4-iodopyridin-2-yl)isonicotinohydrazide (1.53 g, 4.08 mmol) and polymer supported triphenyl phosphine (2.83 g, 6.19 mmol) in tetrahydrofuran (35 mL) was added trimethylsilylazide (0.82 mL, 6.20 mmol) and a 40% solution of diethyl azodicarboxylate in toluene (3.40 mL, 7.42 mmol) and it was stirred in an orbital stirrer at room temperature for 2.5 hours. The mixture was filtered and rinsed with ethyl acetate, concentrated under reduced pressure and the resulting crude was purified by flash chromatography eluting with hexanes:isopropyl alcohol (3:2) to give the title compound (0.80 g, 55%) as a yellowish solid.

reactant | 3-chloro-N′-(4-iodopyridin-2-yl)isonicotinohydrazide | 4.08 mmol, 1.53 g | ClC1=C(C(=O)NNC2=NC=CC(=C2)I)C=CN=C1 | C11H8ClIN4O
reactant | triphenyl phosphine | 6.19 mmol, 2.83 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trimethylsilylazide | 6.20 mmol, 0.82 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | toluene | 7.42 mmol, 3.40 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | 3-(3-Chloropyridin-4-yl)-7-iodo[1,2,4]triazolo[4,3-a]pyridine | 0.80 g, 55% | ClC=1C=NC=CC1C1=NN=C2N1C=CC(=C2)I | C11H6ClIN4
